US09359338B2
Step 1: Synthesis of 2-methoxy-N-(3-nitro-5-(trifluoromethyl)phenyl)acetamide
Stir the mixture of 3-nitro-5-(trifluoromethyl)aniline (500 mg, 2.4 mmol), 2-methoxyacetic acid (220 mg, 2.4 mmol), 1-hydroxybenzotriazole (HOBt, 324 mg, 2.4 mmol), N-methyl morpholine (NMM, 480 mg, 4.8 mmol), 1-ethyl-3-(3-dimethyllaminopropyl)carbodiimide hydrochloride (EDCI.HCl, 920 mg, 4.8 mmol) in DMF (8 mL) at 80° C. for 16 hrs. Cool the reaction mixture to room temperature, add water (100 mL), extract with ethyl acetate (30 mL×2), combine the organic layers, wash with brine, dry over anhydrous sodium sulfate, and concentrate under reduced pressure to give the crude product. Purify by flash chromatography (silica gel, EtOAc:PE=15:85) to yield the target compound (260 mg, 39%).

reactant | 3-nitro-5-(trifluoromethyl)aniline | 2.4 mmol, 500 mg | [N+](=O)([O-])C=1C=C(N)C=C(C1)C(F)(F)F | C7H5F3N2O2
reactant | 2-methoxyacetic acid | 2.4 mmol, 220 mg | COCC(=O)O | C3H6O3
reactant | 1-hydroxybenzotriazole | 2.4 mmol, 324 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methyl morpholine | 4.8 mmol, 480 mg | CN1CCOCC1 | C5H11NO
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | 2-methoxy-N-(3-nitro-5-(trifluoromethyl)phenyl)acetamide | 260 mg, 39% | COCC(=O)NC1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C10H9F3N2O4
